US05869519
(1-Methylindole-2-Carbonyl)Glycine
(1-Methylindole-2-carbonyl)glycine methyl ester (1.687 g, 6.85 mmol) was dissolved in 1,4-dioxane (10 mL) and was treated with 1N lithium hydroxide (7.0 mL, aq) with stirring. The reaction mixture turned clear immediately and was acidified with 1N HCl and concentrated to remove 1,4-dioxane to result in a purple precipitate. The precipitate was filtered, washed with water, and dried in vacuo to give the title product as a purple powder (1.482 g, 93%). TLC: (methylene chloride:methanol:acetic acid, 20:1:1, silica gel): Rf =0.28; 1H NMR (CD3OD): δ 7.61 (dt, J=8.2, 1H). 7.44 (dd, J=8.5, 0.8, 1H), 7.32-7.26 (m, 1H), 7.13-7.09 (m, 1H), 7.04 (s, 1H), 4.08 (s, 2H), 3.99 (s, 3H).

reactant | (1-Methylindole-2-carbonyl)glycine methyl ester | 6.85 mmol, 1.687 g | COC(CNC(=O)C=1N(C2=CC=CC=C2C1)C)=O | C13H14N2O3
reactant | lithium hydroxide | 1N, 7.0 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (1-Methylindole-2-Carbonyl)Glycine | 1.482 g, 93% | CN1C(=CC2=CC=CC=C12)C(=O)NCC(=O)O | C12H12N2O3
